US05464811
The resulting ethyl N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)carbamate (45.2 g, 155 mmol) was reacted with potassium carbonate (21.4 g, 155 mmol) and water (100 ml) for 2 hours while heating under refluxing. After completion of the reaction, the mixture was cooled to room temperature, the solvent was distilled off under reduced pressure. The residue was made acidic by adding 1N hydrochloric acid (300 ml), and extracted with ethyl acetate (100 ml×3 times). The organic layer was washed with water, dried, the solvent was distilled off under reduced pressure, and the precipitated solid was isolated by filtration. The solid was recrystallized from chloroform-hexane to obtain ethyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate as white crystals (35.2 g, 97% yield).

reactant | ethyl N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)carbamate | 155 mmol, 45.2 g | FC1=C(C=C(C(=C1)Cl)OC(=O)OC)NC(OCC)=O | C11H11ClFNO5
reactant | potassium carbonate | 155 mmol, 21.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | ethyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate | 35.2 g, 97% yield | FC1=C(C=C(C(=C1)Cl)O)NC(OCC)=O | C9H9ClFNO3
